US04206225
cis and trans-5,6,6a,7,8,9,10,10a-Octahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-10-oxo-5,6,6-trimethylbenzo[c]quinoline
Lithium metal, 1.2 g., in 1000 ml. of anhydrous ammonia and 4.03 g. (10 mmole) of 5,6,7,8,9,10-hexahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-10-oxo-5,6,6-trimethylbenzo[c]quinoline in 500 ml. of tetrahydrofuran were reacted by the procedure of Example 9 and the resulting mixture of 6a,10a-cis and 6a,10a-trans isomers was isolated and separated by silica gel chromatography as described therein.

reactant | Lithium | [Li] | Li
reactant | ammonia | N | H3N
reactant | 5,6,7,8,9,10-hexahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-10-oxo-5,6,6-trimethylbenzo[c]quinoline | 10 mmole | OC=1C=C2C3=C(C(N(C2=CC1C(CCCC1=CC=CC=C1)C)C)(C)C)CCCC3=O | C27H33NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-5,6,6a,7,8,9,10,10a-Octahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-10-oxo-5,6,6-trimethylbenzo[c]quinoline | OC=1C=C2[C@H]3[C@H](C(N(C2=CC1C(CCCC1=CC=CC=C1)C)C)(C)C)CCCC3=O | C27H35NO2
